US08791272B2
[1-(4-Formyl-benzyl)-3,5-dimethyl-1H-pyrazol-4-yl]-acetic acid methyl ester
(3,5-Dimethyl-1H-pyrazol-4-yl)-acetic acid methyl ester (1 g, 6.0 mmol), 4-(bromomethyl)-benzaldehyde (1.18 g, 6.0 mmol) and K2CO3 (1.73 g, 12.5 mmol) were refluxed in 5 ml acetonitrile for 12 h. After cooling, the mixture was filtered, and the solvent was removed under reduced pressure. The residue was purified by MPLC (silica gel, CH2Cl2/methanol 99:1).

reactant | (3,5-Dimethyl-1H-pyrazol-4-yl)-acetic acid methyl ester | 6.0 mmol, 1 g | COC(CC=1C(=NNC1C)C)=O | C8H12N2O2
reactant | 4-(bromomethyl)-benzaldehyde | 6.0 mmol, 1.18 g | BrCC1=CC=C(C=O)C=C1 | C8H7BrO
reactant | K2CO3 | 12.5 mmol, 1.73 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | [1-(4-Formyl-benzyl)-3,5-dimethyl-1H-pyrazol-4-yl]-acetic acid methyl ester | COC(CC=1C(=NN(C1C)CC1=CC=C(C=C1)C=O)C)=O | C16H18N2O3
